US08084483B2
Lithium hydroxide solution (1M aqueous, 0.436 mL, 0.436 mmol) was added to a solution of ethyl 2-(4-(2,4-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)acetate (0.09 g, 0.218 mmol) in THF/methanol/water (3/3/1, 1.5 mL) and stirred for 18 h at room temperature. The crude reaction mixture was concentrated, acidified with HCl (1M aqueous, 4 mL), and extracted with ethyl acetate (2×3 mL). The combined organics extracts were concentrated to afford 2-(4-(2,4-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)acetic acid as an off-white foam (0.082 g, 98%).

reactant | Lithium hydroxide | 0.436 mmol, 1M, 0.436 mL | [OH-].[Li+]
reactant | ethyl 2-(4-(2,4-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)acetate | 0.218 mmol, 0.09 g | CC1=C(C=2CCCCC2C(=C1)C)N1C(=NN=C1C(F)(F)F)SCC(=O)OCC | C19H22F3N3O2S
solvent | THF methanol water | 1.5 mL | C1CCOC1.CO.O
product | 2-(4-(2,4-dimethyl-5,6,7,8-tetrahydronaphthalen-1-yl)-5-(trifluoromethyl)-4H-1,2,4-triazol-3-ylthio)acetic acid | 0.082 g, 98% | CC1=C(C=2CCCCC2C(=C1)C)N1C(=NN=C1C(F)(F)F)SCC(=O)O | C17H18F3N3O2S
